US04029787
3-Allylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-hydrochloride
A mixture of 28 g of 3-allylsulfamoyl-4-chlorobenzoic acid, 30 g of N-methylpiperazine and 20 ml of dimethylformamide was heated for 4 hours at 140° C. When the reaction solution was subsequently introduced into 0.3 l of 2N HCl, the monohydrochloride crystallized immediately. The product was then purified by recrystallization from water.

reactant | 3-allylsulfamoyl-4-chlorobenzoic acid | 28 g | C(C=C)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1Cl | C10H10ClNO4S
reactant | N-methylpiperazine | 30 g | CN1CCNCC1 | C5H12N2
reactant | HCl | 2N, 0.3 l | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3-Allylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-hydrochloride | Cl.C(C=C)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1N1CCN(CC1)C | InChI=1S/C15H21N3O4S.ClH/c1-3-6-16-23(21,22)14-11-12(15(19)20)4-5-13(14)18-9-7-17(2)8-10-18;/h3-5,11,16H,1,6-10H2,2H3,(H,19,20);1H
